US05969190
3.10 g of (S)-9-hydroxy-5,9-dimethyl-decanal was dissolved in 60 ml of abs. CH2Cl2 and treated successively at 0° with 57 mg of DMAP, 7.0 ml of NEt3 and 3.1 ml of TMS-Cl. The reaction mixture was kept for 30 minutes at RT and then poured onto crushed ice, extracted twice with ether, washed twice with water and brine, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=95/5) yielded 3.90 g of (S)-5,9-dimethyl-9-trimethylsilanyloxy-decanal as colorless oil, 98.6% pure according to GC.

reactant | (S)-9-hydroxy-5,9-dimethyl-decanal | 3.10 g | OC(CCC[C@@H](CCCC=O)C)(C)C | C12H24O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | TMS-Cl | 3.1 ml | [Si](C)(C)(C)Cl | C3H9ClSi
catalyst | DMAP | 57 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NEt3 | 7.0 ml | CCN(CC)CC | C6H15N
product | (S)-5,9-dimethyl-9-trimethylsilanyloxy-decanal | 3.90 g | C[C@H](CCCC=O)CCCC(C)(O[Si](C)(C)C)C | C15H32O2Si
